US06858639B2
1.8 g (3.0 mmol) of 1,1′-thiodi-[2-chloro-4-fluoro-5-(3-trifluoromethyltriazolyl)benzene], 2.0 g (13.0 mmol) of Rongalite, 2.0 g (14.5 mmol) of potassium carbonate and 3.2 g (17.6 mmol) of 2,2,2-trifluoroethyl iodide were reacted in the same way as in Example 2 (3) and afforded 1.1 g of [2-chloro-4-fluoro-5-(3-trifluoromethyltriazolyl)phenyl] 2,2,2-trifluoroethyl sulfide (yield 47.8%) as white crystals (m.p. 56-58° C.).

reactant | 1,1′-thiodi-[2-chloro-4-fluoro-5-(3-trifluoromethyltriazolyl)benzene] | 3.0 mmol, 1.8 g | S(C1=C(C=C(C(=C1)C=1N(N=NC1)C(F)(F)F)F)Cl)C1=C(C=C(C(=C1)C=1N(N=NC1)C(F)(F)F)F)Cl | C18H6Cl2F8N6S
reactant | Rongalite | 13.0 mmol, 2.0 g | C(O)S(=O)[O-].[Na+]
reactant | potassium carbonate | 14.5 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoroethyl iodide | 17.6 mmol, 3.2 g | FC(CI)(F)F | C2H2F3I
product | [2-chloro-4-fluoro-5-(3-trifluoromethyltriazolyl)phenyl] 2,2,2-trifluoroethyl sulfide | 1.1 g, yield 47.8% | FC(CSC1=C(C=C(C(=C1)C=1N(N=NC1)C(F)(F)F)F)Cl)(F)F | C11H5ClF7N3S
